US07795236B2
2-Benzyloxy-3′-dimethylcarbamoylbiphenyl-4-ylmethylamine hydrochloride
tert-Butyl N-(2-benzyloxy-3′-dimethylcarbamoyl-biphenyl-4-ylmethyl)carbamate (0.7 g) was suspended in 4 mol/L hydrogen chloride-1,4-dioxane solution (7.0 mL), and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure to give the title compound (0.55 g).

reactant | tert-Butyl N-(2-benzyloxy-3′-dimethylcarbamoyl-biphenyl-4-ylmethyl)carbamate | 0.7 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC(=CC=C1)C(N(C)C)=O | C28H32N2O4
reactant | hydrogen chloride-1,4-dioxane | 4 mol/L, 7.0 mL | O1CCOCC1.Cl
product | 2-Benzyloxy-3′-dimethylcarbamoylbiphenyl-4-ylmethylamine hydrochloride | 0.55 g | Cl.C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CN)C1=CC(=CC=C1)C(N(C)C)=O | InChI=1S/C23H24N2O2.ClH/c1-25(2)23(26)20-10-6-9-19(14-20)21-12-11-18(15-24)13-22(21)27-16-17-7-4-3-5-8-17;/h3-14H,15-16,24H2,1-2H3;1H
